US07728025B2
(Step 2) Production of t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrolidine-1-carboxylate
5 ml of water and 660 mg of 5% platinum-carbon catalyst were added to a 2-propanol (50 ml) solution of 2.2 g of t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrole-1-carboxylate, and stirred in a hydrogen atmosphere under a pressure of 50 kgf/cm2 at 50° C. for 1 day. The catalyst was removed through filtration through Celite, the solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1) to obtain the entitled compound as a brown oily substance.

reactant | water | 5 ml | O | H2O
reactant | t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrole-1-carboxylate | 2.2 g | NC1=CC(=C(C=C1)C=1N(C=CC1)C(=O)OC(C)(C)C)F | C15H17FN2O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum carbon | 660 mg | [Pt].[C]
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrolidine-1-carboxylate | NC1=CC(=C(C=C1)C1N(CCC1)C(=O)OC(C)(C)C)F | C15H21FN2O2
